US07723384B2
1-{4-[4-(2-tert-Butyl-6-isopropylpyrimidin-4-yl) piperazin-1-yl]butyl}-3,4-dihydro-1H-1-benzazepine-2,5-dione
Analogously to Example 3b, reaction of 2-tert-butyl-4-isopropyl-6-piperazin-1-ylpyrimidine (0.95 mmol, 0.25 g) with 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione afforded 0.04 g of the title compound.

reactant | 2-tert-butyl-4-isopropyl-6-piperazin-1-ylpyrimidine | 0.95 mmol, 0.25 g | C(C)(C)(C)C1=NC(=CC(=N1)C(C)C)N1CCNCC1 | C15H26N4
reactant | 1-(4-chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione | ClCCCCN1C(CCC(C2=C1C=CC=C2)=O)=O | C14H16ClNO2
product | 1-{4-[4-(2-tert-Butyl-6-isopropylpyrimidin-4-yl) piperazin-1-yl]butyl}-3,4-dihydro-1H-1-benzazepine-2,5-dione | 0.04 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1C(CCC(C2=C1C=CC=C2)=O)=O)C(C)C | C29H41N5O2
